Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I don't belong here"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old male student at ___
who presents via EMS on ___ from the ___ counseling center
due to endorsing worsening depression and active homicidal and
suicidal ideation with plan to shoot his coworker and his
girlfriend and then to shoot himself. Psychiatry was consulted
for diagnostic clarification and treatment recommendation.

Patient states that he came to the hospital because he has been
having a very hard time during the ___ semester at ___, that it
"snowballed into a breaking point." States that he went to the
___ and that at this point he should be in the
hospital. States that he had intentions to hurt someone or
someone else at the time, which was "a clear indication of
admittance to here." States that he woke up today and mentally
didn't feel like getting out of bed, which happens often, and he
got a text from someone named ___ who he has been having issues
with (states he works under him at the ___ radio station and
is very "aggressive"). States that he can't even repeat the text
to me right now because it will make him too angry, but that it
had something to do with him not being respected at the radio
station. He then "blew up emotionally," had to calm himself down
before going to work, spoke with his mom on the phone which
helped. States he was still in a rage, called ___ health
services (has called them before--last semester had a suicide
attempt under influence of alcohol, two weeks ago during finals
when was very stressed), set up an appt. 

Identifies additional stressors as issues with student loans
where he now owes several hundred dollars, "tanking" of his
average from 3.5 GPA to 2.5 GPA this semester with another grade
coming in that will bring it down further. States he found these
things out right before going to his appointment with 
counseling.
States that he "vehemently hates" several people in this
situation. States they are terrible people. States that he does
not really recall what he told them at ___ but that 
he
did say that he wants to kill his coworker and his girlfriend,
and then kill himself.

Endorses worsening depressed mood for the whole semester with
intermittent moments of happiness, difficulty sleeping, normal
appetite, difficulty concentrating, amotivation, and
hopelessness. Denies anhedonia. Endorses passive suicidal
ideation, but states that he would rather just "hope and pray to
God that nobody sees this semester and that I could just 
transfer
out of ___ and pretend it never happened." Denies any active
suicidal ideation or plan. States that he does not have any
homicidal ideation anymore. Denies any auditory or visual
hallucinations. Denies any symptoms of mania, though states that
in the past he has had episodes of time where he felt very
motivated to perform several tasks at once. Denies any period of
sleeplessness, impulsivity, euphoria.

Of note, during interview, patient states that he only has his
phone with him so that he can convince his mom that he is at
school in his dorm room and doing well. During interview, he
takes a phone call from her and states that he is in his dorm
room eating dinner and is looking forward to seeing her this
weekend. States that his sister is in the hospital right now
after complications from a recent pregnancy.

Collateral from Dr. ___ at ___), usual provider
___: 
"Pt with h/o mood instability, dysregulation and 2 SI gestures 
in
the past, who presents to triage today acutely distressed.
Reports he has "murderous" feelings toward a colleague and
himself. Wants to "shoot him in the head" and "dump his body" 
and
then "shoot himself." Denies access to weapons, but reports 
he'll
"find a way." cannot contract for safety. Many recent triggers,
including poor grades, ill sister, financial distress and recent
altercation with colleague in which he evidently insulted pt.
Obtained name/info of threatened individual. Will complete
Tarasoff. ___ involved/aware of threat and will also  take any
necessary action."

 
Past Medical History:
None

PAST PSYCHIATRIC HISTORY:
Diagnoses: No past psychiatric diagnoses, "but I want one, I 
feel
like I have been struggling with this for so long"
Hospitalizations: No prior
Current treaters and treatment: No current; sees someone on an 
as
needed basis at school
Medication and ECT trials: no prior
Self-injury: states that he thought about it in high school but
can't stand the sight of blood
Suicide attempts: states that last semester ___ he
stepped into traffic onto ___ where it 
overpasses
the highway when he was drunk, states that the cars stopped, 
then
people saw him and pulled him off the road; sophomore of high
school tried to jump off of a church balcony but was pulled down
before it could happen
Harm to others: bit someone in second grade when being bullied,
broke someone's glasses in ___ grade after his dad died
Access to weapons: dad used to have guns but his mom "thank god"
sold them, thinks it wouldn't be wise to keep them around him
Trauma: in ___ grade was on the wrestling team and was touched
inappropriately by another kid, points to his genitals and
backside

 
Social History:
___
Family History:
Knows that a great grandfather had depression. There is a 
distant
maternal side history of alcoholism. No history of suicide.
 
Physical Exam:
*VS:  BP:123/66 HR: 80 temp: 98.4 resp: 18  O2 sat: 100% RA

Neurological:  
 *station and gait: within normal limits
 *tone and strength: within normal limits

Cognition: 
 Wakefulness/alertness: awake, alert
 *Attention (digit span, MOYB): correctly states MOYB
 *Orientation: AAOX3
 *Memory: ___ registration, ___ recall 
 *Fund of knowledge:  knows current president, as well as 
someone
running for president
 Calculations:  7 quarters in 1.75
 Abstraction: correctly describes "don't judge a book by its
cover"
 *Speech: at times rapid, normal volume and prosody
 *Language: fluent ___
 
Mental Status:
 *Appearance:  ___ year old Caucasian sitting upright in bed in
hospital gown; anxious-appearing
 Behavior: pleasant, cooperative with interview, at times
hyperverbal, wrings hands
 *Mood and Affect: "there's not a lot of words to describe it,
kind of upset" affect is anxious, dysphoric, at times tearful
 *Thought process / *associations:  mostly linear and goal
directed but at times cirumstantial
 *Thought Content: marginally endorses passive SI, denies active
suicidal or homicidal intent, denies AVH, ___ manic sx
 *Judgment and Insight:  limited/limited

 
Pertinent Results:
___ 06:20PM   GLUCOSE-88 UREA N-12 CREAT-0.7 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-24 ANION GAP-15
___ 06:20PM   estGFR-Using this
___ 06:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:20PM   WBC-5.9 RBC-5.09 HGB-14.9 HCT-44.3 MCV-87 
MCH-29.3 MCHC-33.6 RDW-12.0 RDWSD-38.5
___ 06:20PM   NEUTS-43.8 ___ MONOS-7.5 EOS-1.5 
BASOS-0.9 IM ___ AbsNeut-2.56 AbsLymp-2.67 AbsMono-0.44 
AbsEos-0.09 AbsBaso-0.05
___ 06:20PM   PLT COUNT-258
___ 06:09PM URINE  HOURS-RANDOM
___ 06:09PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:09PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:09PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 

remained here on that level of observation throughout.  He was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:

#Depression:
___ presented to the ___ ___ via EMS on ___ from the 
___ counseling center
due to endorsing worsening depression and active homicidal and 
suicidal ideation with plan to shoot his coworker and his 
girlfriend and then to shoot himself.

In the ___ described having a difficult time at ___ during 
the Fall semester and noted several stressors including issues 
with student loans, poor grades, difficult interpersonal 
relationships with co-workers, and working 40-60 hours per week 
in a leadership position for his school's radio. He endorsed 
several sx of depression including worsening mood over the past 
several weeks, difficulty with sleeping, concentration, 
amotivation, and hopelessness. He indicated that he "vehemently 
hates" several people at his school and acknowledged being sent 
to the hospital because he told a school counselor he wanted to 
kill his coworker and his girlfriend, and then kill himself. He 
denied any symptoms of mania or psychosis. 

On arrival to the inpatient psychiatric unit, ___ retracted 
his HI stating "I meant what I said at the time, but now wish I 
could take it back - I don't know
what the hell I was thinking." He informed the treatment team he 
had been in contact with the individual he threatened, and they 
were able talk and smooth things over.

He recalled experiencing feelings of hate and thoughts of 
wanting to kill people on two prior occasions. Both times his 
feelings were directed towards his teachers during high school. 
One teacher was someone ___ viewed as a "dishonest man" and 
___ recalled becaming extremely angry at the teacher after 
receiving a piece of negative feedback about his leadership 
style. ___ says he did not act on these feelings/thoughts, but 
admits to sometimes feeling overwhelmed by his anger and says it 
causes him to think about killing that person. He believed these 
feelings of anger experienced leading up to admission may have 
been intensified by a course of steroids he was prescribed for 
treatment of a strep infection.

He also denied active SI, but admitted having passive thoughts 
of ending his own life over the past few days in the context of 
stress. He continued to deny suicidal thoughts during his 
admission, but reported feeling depressed and anxious. In 
individual therapy with the treatment team, it seemed the root 
cause of his depression and anxiety stemmed primarily from 
unresolved grief and his avoidance of dealing with his father's 
death. He expressed coping by working as hard as he could and 
striving for perfection to make his father proud. He also 
expressed a feeling a tremendous sense of responsibility to care 
for his mother and put other's needs before his own. Team 
encouraged patient to continue working through these issues in 
therapy. We also recommended patient start an antidepressant, 
and he agreed to start Celexa 20 mg qam on ___. 

GENERAL MEDICAL CONDITIONS:
No medical issues addressed this admission.

PSYCHOSOCIAL:
#) GROUPS/MILIEU:
Patient was visible in the milieu and social with select peers.

#) COLLATERAL CONTACTS:
SW spoke to patient's Mother and counselor.  

#) FAMILY INVOLVEMENT:
Patient's mother visited from ___ and participated in 
family meeting the day of discharge. She agreed to be involved 
with making certain ___ attends necessary f/u appointments in 
___ while on break and is in touch with school counseling 
services.

#) INTERVENTIONS:
___ Referral: The team submitted a ___ application for the 
patient to receive services, specifically requesting PREP 
program participation and community-based support. 

INFORMED CONSENT:
I discussed the indications for, intended benefits of, and
possible side effects and risks of Celexa, and risks and
benefits of possible alternatives, including not taking the
medication, with this patient. (Major risks include: EPS, 
Tardive
Dyskinesia, weight gain, Metabolic syndrome.) We discussed the
patient's right to decide whether to take this medication as 
well
as the importance of the patient's actively participating in the
treatment and discussing any questions about medications with 
the
treatment team, and I answered the patient's questions. The
patient appeared able to understand and consented to begin the
medication. I will continue and adjust this medication as 
needed,
and attend to any signs of side effects. 

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
- Adolescent age
- Male gender
- Depression
- Death of father
- ___ of sexual trauma

#) Modifiable Risk Factors:
- Depressed mood

#) Protective Factors:
- Family support
- Intelligence
- No access to firearms
- NO active substance use 

PROGNOSIS: ___ has a good prognosis with more regular and 
intensive outpatient psychiatry and compliance with 
antidepressant medications. 

 
Medications on Admission:
None
 
Discharge Medications:
1. Citalopram 20 mg PO QAM 
RX *citalopram 20 mg 1 tablet(s) by mouth qam Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depression

 
Discharge Condition:
*Appearance: Casually dressed in flannel, jeans and tennis
shoes. Adequate grooming and hygiene. 
  Behavior: Pleasant and cooperative. Engaged with good eye
contact.
  *Mood and Affect: 'good' affect euthymic  *Thought process: 
linear
  *Thought Content: question directed. Reflective. Future
oriented.
  *Judgment and Insight: fair/fair
  Cognition: A&O x3
    *Speech: wnl
    *Language: fluent ___.

 
Discharge Instructions:
You were hospitalized at ___ for depression. We started a new 
medication to treat depression called Celexa. You are now ready 
for discharge and continued treatment with your outpatient 
providers and in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___